US03978123
Preparation of N-(2-fluorophenyl)-N-methylthiomethyl-N'-methyl urea
A solution of 16.8 g. (0.1 mol) of N-(2-fluorophenyl)-N'-methyl urea in 250 ml. of 1,2-dimethoxyethane was cooled to 0°C. Then 4.8 g. (0.1 mol) of a 50% dispersion of sodium hydride in mineral oil was added slowly. After addition was complete, the solution was stirred for 15 minutes. This solution was added slowly to a stirred solution of 9.7 g. (0.1 mol) of chloromethyl methyl sulfide in 100 ml. of 1,2-dimethoxyethane. The resulting mixture was stirred at room temperature for 65 hours. At the end of this time, the precipitate was removed by filtration and the resulting filtrate was evaporated to give an oil which solidified upon adding water. The solid was isolated by filtration, washed with hexane and dried. Recrystallization from a hexene-benzene mixture gave 12 g. crystalline solid, melting point 102.5°-103°C. An infrared spectrum showed sharp, strong adsorptions at 3.0, 6.1, 13.05 and 13.2μ .

reactant | N-(2-fluorophenyl)-N'-methyl urea | 0.1 mol | FC1=C(C=CC=C1)NC(=O)NC | C8H9FN2O
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | sodium hydride | [H-].[Na+]
reactant | chloromethyl methyl sulfide | 0.1 mol | CSCCl | C2H5ClS
solvent | water | O | H2O
product | N-(2-fluorophenyl)-N-methylthiomethyl-N'-methyl urea | FC1=C(C=CC=C1)N(C(=O)NC)CSC | C10H13FN2OS
